US05670633
C. 2'-Deoxy-2'-Methylthio-5-Methyluridine
2.2'-Anhydro-5-methyluridine (17.02 g, 70.6 mmol), methanethiol (16.3 g, 339 mmol), 1,1,3,3-tetramethylguanidine (40.6 g, 353 mmol), and dimethylformamide (150 ml) were heated together at 60° C. After 12 hr, the products were cooled and concentrated under reduced pressure. The residual oil was purified by short silica gel (300 g) column chromatography. Concentration of appropriate fractions, which were eluted with CH2Cl2 -MeOH (93:7, v/v), furnished the title compound as a white foam (15.08 g, 74.1%). Crystallization from EtOH-CH2Cl2 furnished white needles.

reactant | 2.2'-Anhydro-5-methyluridine | 70.6 mmol, 17.02 g | CC1=CN2[C@H]3[C@H]([C@@H]([C@H](O3)CO)O)OC2=NC1=O | C10H12N2O5
reactant | methanethiol | 339 mmol, 16.3 g | CS | CH4S
reactant | 1,1,3,3-tetramethylguanidine | 353 mmol, 40.6 g | CN(C(=N)N(C)C)C | C5H13N3
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 2'-Deoxy-2'-Methylthio-5-Methyluridine | 15.08 g, 74.1% | CS[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C(=C1)C | C11H16N2O5S
